US06350733B1
STAGE A: (E) 3-(ethoxyacetyl)-4-hydroxy-8-methyl-7-[(tetrahydro-2H-pyran-2-yl)oxy]-2H-1-benzopyran-2-one
2.21 ml of ethoxy acetic acid is added to a solution containing 5.00 g of 4-hydroxy-8-methyl-7-[(tetrahydro-2H-pyran-2-yl) oxy]-2H-1-benzopyran-2-one, 7.30 g of 4-dimethylaminopyridine and 3.816 g of N-(3-dimethylaminopropyl)- N′-ethylcarbodiimide hydrochloride. This mixture is agitated for 16 hours at ambient temperature. After diluting with dichloromethane, washing is carried out with an aqueous solution of sodium dihydrogen phosphate then with brine. After drying over magnesium sulphate, filtering and evaporating to dryness, the product obtained is triturated in a hexane-ethyl acetate mixture (4-1). The product obtained is separated and dried. In this way 5.40 g of sought product is obtained.

reactant | ethoxy acetic acid | 2.21 ml | C(C)OCC(=O)O | C4H8O3
reactant | 4-hydroxy-8-methyl-7-[(tetrahydro-2H-pyran-2-yl) oxy]-2H-1-benzopyran-2-one | 5.00 g | OC1=CC(OC2=C1C=CC(=C2C)OC2OCCCC2)=O | C15H16O5
reactant | N-(3-dimethylaminopropyl)- N′-ethylcarbodiimide hydrochloride | 3.816 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 7.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(ethoxyacetyl)-4-hydroxy-8-methyl-7-[(tetrahydro-2H-pyran-2-yl)oxy]-2H-1-benzopyran-2-one | 5.40 g | C(C)OCC(=O)C=1C(OC2=C(C1O)C=CC(=C2C)OC2OCCCC2)=O | C19H22O7
